US04943655
363 Grams (1.0M) of N,N-diethylaniline salt of 5-acetyl-2-methylbenzenesulfonic acid was dissolved in 934 g of chloroform, to this solution was added a mixture of 80.3 g (1.1M) of N,N-dimethylformamide with 130.9 g (1.1M) of thionyl chloride at a temperature of 2°-3° C., and the whole mixture was stirred at the same temperature for 1 hour. 1,500 Grams of water was added to this reaction mixture, the chloroform layer was separated and washed 3 times with 500 g of water. The chloroform layer was concentrated to obtain 203.1 g (0.874M) of 5-acetyl-2-methylbenzenesulfonyl chloride. The yield was 87.4% on the basis of N,N-diethylaniline salt of 5-acetyl-2-methylbenzenesulfonate.

reactant | N,N-diethylaniline | 1.0M | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | 5-acetyl-2-methylbenzenesulfonic acid | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)O)C | C9H10O4S
reactant | N,N-dimethylformamide | 1.1M, 80.3 g | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 1.1M, 130.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 934 g | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 5-acetyl-2-methylbenzenesulfonyl chloride | 0.874M, 203.1 g, yield was 87.4% | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)Cl)C | C9H9ClO3S
